US06858651B2
A solution of 10.0 g (25.2 mmol) of trans-[4-(2,2-Dibromo-vinyl)-cyclohexyl]-methyl-carbamic acid tert-butyl ester in 400 ml THF was treated at −78° C. with 33.0 ml (68.3 mmol) of BuLi (ca 1.6 M in hexane) and stirred for 2 h, then 27.8 ml (230.4 mmol) of DMPU were added and 10 min later 19.0 ml (125.9 mmol) of 2-(2-bromoethoxy)tetrahydro-2H-pyran dissolved in 20 ml were dropped in during 20 min. The reaction was warmed up to RT and stirred over night (approx. 16 h). An aqueous solution of saturated NH4Cl was added and the mixture was extracted with ether (3×). The organic phase was washed with H2O (2×), aqueous 10% NaCl and dried with Na2SO4, filtered and evaporated to give after flash column chromatography on silica gel (Hexane/EtOAc 19:1 to 3:1) 3.5 g (38%) of trans-Methyl-{4-[4-(tetrahydro-pyran-2-yloxy)-but-1-ynyl]-cyclohexyl}-carbamic acid tert-butyl ester, MS: 366 (MH+).

reactant | trans-[4-(2,2-Dibromo-vinyl)-cyclohexyl]-methyl-carbamic acid tert-butyl ester | 25.2 mmol, 10.0 g | C(C)(C)(C)OC(N(C)[C@@H]1CC[C@H](CC1)C=C(Br)Br)=O | C14H23Br2NO2
reactant | BuLi | 68.3 mmol, ca 1.6 M, 33.0 ml | [Li]CCCC
reactant | DMPU | 230.4 mmol, 27.8 ml | CN1CCCN(C1=O)C | C6H12N2O
reactant | 2-(2-bromoethoxy)tetrahydro-2H-pyran | 125.9 mmol, 19.0 ml | BrCCOC1OCCCC1 | C7H13BrO2
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 400 ml | C1CCOC1 | C4H8O
product | trans-Methyl-{4-[4-(tetrahydro-pyran-2-yloxy)-but-1-ynyl]-cyclohexyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N([C@@H]1CC[C@H](CC1)C#CCCOC1OCCCC1)C)=O | C21H35NO4
